US04749403
4-Hydroxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one
16.0 g (0.05 mol) of 1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidine-2,4-dione are dissolved in 100 ml of isopropanol, and 2.85 g (0.075 mol) of sodium borohydride are added at a rate such that the temperature increases to 40° C. After the addition is complete, the mixture is stirred for a further 30 minutes at 40° C., and poured into 300 ml of ice-water. The mixture is extracted twice with 100 ml of methylene chloride in each case, and the combined methylene chloride phases are washed with 100 ml of water and dried over sodium sulfate. After removing the solvent by distillation, 15.4 g (96% of theory) of 4-hydroxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one are obtained in the form of a pale yellow viscous oil.

reactant | 1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidine-2,4-dione | 0.05 mol, 16.0 g | CN1C(N(C(C1)=O)C1=CC(=C(C=C1)OC(C(F)F)(F)F)C)=O | C13H12F4N2O3
reactant | sodium borohydride | 0.075 mol, 2.85 g | [BH4-].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-Hydroxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one | OC1N(C(N(C1)C)=O)C1=CC(=C(C=C1)OC(C(F)F)(F)F)C | C13H14F4N2O3
